US06544985B2
8-Chloro-7-(isobutyl-methyl-amino)-4-(3-[1,2,3]triazol-1-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {4-chloro-5-(isobutyl-methyl-amino)-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester (Example M123) (0.17 g, 0.31 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (100 mg, 75%).

reactant | {4-chloro-5-(isobutyl-methyl-amino)-2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | 0.31 mmol, 0.17 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)Cl)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C27H33ClN6O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-7-(isobutyl-methyl-amino)-4-(3-[1,2,3]triazol-1-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=NC=C2)=O)C1)N(C)CC(C)C | C22H23ClN6O
